* BACKLIGHT — субсхема из нетлиста KiCad + YAML
.subckt BACKLIGHT GND NET_SCALE_CH2_C NET_SCALE_CH3_C NET_SCALE_CH5_C NET_SCALE_CH6_C NET_SCALE_CH7_C NET_SCALE_CH8_A NET_SCALE_CH8_C
  * LED11: LED (Белый SMD 0805) — не моделируется
  * LED12: LED (Белый SMD 0805) — не моделируется
  * LED13: LED (Белый SMD 0805) — не моделируется
  * LED21: LED (Белый SMD 0805) — не моделируется
  * LED22: LED (Белый SMD 0805) — не моделируется
  * LED23: LED (Белый SMD 0805) — не моделируется
  * LED31: LED (Белый SMD 0805) — не моделируется
  * LED32: LED (Белый SMD 0805) — не моделируется
  * LED33: LED (Белый SMD 0805) — не моделируется
  * LED41: LED (Белый SMD 0805) — не моделируется
  * LED42: LED (Белый SMD 0805) — не моделируется
  * LED43: LED (Белый SMD 0805) — не моделируется
  * LED51: LED (Белый SMD 0805) — не моделируется
  * LED52: LED (Белый SMD 0805) — не моделируется
  * LED53: LED (Белый SMD 0805) — не моделируется
  * LED61: LED (Белый SMD 0805) — не моделируется
  * LED62: LED (Белый SMD 0805) — не моделируется
  * LED63: LED (Белый SMD 0805) — не моделируется
  * LED71: LED (Белый SMD 0805) — не моделируется
  * LED72: LED (Белый SMD 0805) — не моделируется
  * LED73: LED (Белый SMD 0805) — не моделируется
  * LED81: LED (Белый SMD 0805) — не моделируется
  * LED82: LED (Белый SMD 0805) — не моделируется
  * LED83: LED (Белый SMD 0805) — не моделируется
  R1 GND Net-(LED11-K) 130
  R2 GND GND 130
  R3 GND GND 130
  R4 GND GND 130
  R5 GND GND 130
  R6 GND GND 130
  R7 GND GND 130
  R8 GND NET_SCALE_CH8_A 130
.ends BACKLIGHT
